US08748624B2
STEP C: 3-(5-(2-((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)carbamoyl)-4,5-difluorophenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.27 mL, 0.82 mmol) was added to a THF solution (0.9 mL) of ethyl 3-(5-(2-((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)carbamoyl)-4,5-difluorophenyl)picolinamido)propanoate (100 mg, 0.17 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated and purified via HPLC to yield the title compound.

reactant | NaOH | 0.82 mmol, 0.27 mL | [OH-].[Na+]
reactant | ethyl 3-(5-(2-((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)carbamoyl)-4,5-difluorophenyl)picolinamido)propanoate | 0.17 mmol, 100 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NC(=O)C1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H23Cl2F2N3O4
solvent | THF | 0.9 mL | C1CCOC1 | C4H8O
product | 3-(5-(2-((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)carbamoyl)-4,5-difluorophenyl)picolinamido)propanoic acid | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NC(=O)C1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C28H19Cl2F2N3O4
